US06514964B1
Step B: Methyl 2-(2-(2-((2-(2-pyridylamino)ethyl) amino)acetyl)-1H,3H,4H,5H-benzo[e]azapin-5-yl)acetate
To a stirring solution of methyl 2-(2-(2-bromoacetyl)-1H,3H,4H,5H-benzo[e]azepin-5-yl)acetate in THF (0.2 M), was added diisopropylethylamine (1.5 eq) and 2-(2-pyridylamino)-1-aminoethane (1.2 eq). The reaction was stirred for 18 hr, followed by concentration by rotary evaporation and the product was purified by flash chromatography (10% MeOH/CH2Cl2). EI-MS m/z 397 (M−H)−

reactant | methyl 2-(2-(2-bromoacetyl)-1H,3H,4H,5H-benzo[e]azepin-5-yl)acetate | BrCC(=O)N1CCC(C2=C(C1)C=CC=C2)CC(=O)OC | C15H18BrNO3
reactant | diisopropylethylamine | 1.5 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(2-pyridylamino)-1-aminoethane | 1.2 eq | N1=C(C=CC=C1)NCCN | C7H11N3
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
product | Methyl 2-(2-(2-((2-(2-pyridylamino)ethyl) amino)acetyl)-1H,3H,4H,5H-benzo[e]azapin-5-yl)acetate | N1=C(C=CC=C1)NCCNCC(=O)N1CCC(C2=C(C1)C=CC=C2)CC(=O)OC | C22H28N4O3
